.include NAND2IN.sub
.include NOT.sub

.subckt XOR2IN node_out node_a node_b vdd gnd
    X1 node_c node_a node_b vdd gnd NAND2IN
    X2 node_d node_a node_c vdd gnd NAND2IN
    X3 node_e node_b node_c vdd gnd NAND2IN
    X4 node_out node_d node_e vdd gnd NAND2IN
.ends XOR2IN